US07645753B2
3-Ethoxy-4-hydroxy-benzoic acid methyl ester
A solution of 3-ethoxy-4-hydroxy-benzoic acid (5.5 g, 30.19 mmol, 1.0 equiv) in methanol (300 mL) was saturated with anhydrous HCl gas and heated to reflux overnight. Evaporation of the solvent and purification of the crude reaction product over a short plug of silica eluting with dichloromethane yielded 5.4 g (91%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 1.37 (t, J=7.0 Hz, 3H), 3.80 (s, 3H), 4.08 (q, J=7.0 Hz, 2H), 6.11 (s, 1H), 6.86 (d, J=8.3 Hz, 1H), 7.45 (d, J=1.9 Hz, 1H), 7.54 (dd, J=8.3 Hz, J=1.9 Hz, 1H). 13C NMR (75 MHz, CDCl3): δ 14.69, 51.85, 64.74, 112.67, 114.05, 122.21, 124.05, 145.46, 150.20, 166.88. MS (ISN): 195.0 [M−H]−.

reactant | 3-ethoxy-4-hydroxy-benzoic acid | 30.19 mmol, 5.5 g, 1.0 equiv | C(C)OC=1C=C(C(=O)O)C=CC1O | C9H10O4
reactant | HCl | Cl | ClH
reactant | methanol | 300 mL | CO | CH4O
product | 3-Ethoxy-4-hydroxy-benzoic acid methyl ester | 5.4 g, 91% | COC(C1=CC(=C(C=C1)O)OCC)=O | C10H12O4
